US06239151B1
A solution of 1.85 g of (E)-2(R)-[1(S)-(carboxy)-4-phenyl-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethoxycarbonyl)-D-alanyl]-4-methylvalerohydrazide in 3 ml of dimethylformamide was treated with 0.60 g of O-(tetrahydro-2H-pyran-2(RS)-yl)hydroxylamine and 0.54 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. The mixture was stirred overnight at room temperature and then diluted with ethyl acetate and washed with 5% aqueous citric acid, 5% aqueous sodium hydrogen carbonate and brine. The ethyl acetate layer was then dried over magnesium sulphate and evaporated. The residue was triturated with hexaneldiethyl ether (2:1) to give 1.67 g of (E)-2(R)-[1(S)-(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethoxycarbonyl)-D-alanyl]-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(carboxy)-4-phenyl-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethoxycarbonyl)-D-alanyl]-4-methylvalerohydrazide | 1.85 g | C(=O)(O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C([C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C)=O)CC(C)C)CC(C)C | C39H47N3O6
reactant | O-(tetrahydro-2H-pyran-2(RS)-yl)hydroxylamine | 0.60 g | O1C(CCCC1)ON | C5H11NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.54 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2′-isobutyl-2′-[N-(9-fluorenylmethoxycarbonyl)-D-alanyl]-4-methylvalerohydrazide | C(C(C)C)N(NC(CCC(C)C)=O)C([C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C)=O | C28H37N3O4
